US08211923B2
(1) (1-methyl-6-nitro-1H-indazol-3-yl)-pyrrolidin-1-yl-methanone
is obtained by reacting a mixture of 1-methyl-6-nitro-1H-indazole-3-carboxylic acid and 2-methyl-6-nitro-2H-indazole-3-carboxylic acid. The product is purified by chromatography on silica gel.

reactant | 1-methyl-6-nitro-1H-indazole-3-carboxylic acid | CN1N=C(C2=CC=C(C=C12)[N+](=O)[O-])C(=O)O | C9H7N3O4
reactant | 2-methyl-6-nitro-2H-indazole-3-carboxylic acid | CN1N=C2C=C(C=CC2=C1C(=O)O)[N+](=O)[O-] | C9H7N3O4
product | (1-methyl-6-nitro-1H-indazol-3-yl)-pyrrolidin-1-yl-methanone | CN1N=C(C2=CC=C(C=C12)[N+](=O)[O-])C(=O)N1CCCC1 | C13H14N4O3
